US07727979B2
2-guanidino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester
Benzyl chloroformate is added to a stirred suspension of N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine (0.1 mmol) and diisopropylethylamine (0.22 mmol) in dimethylformamide (0.7 ml) and the mixture is stirred for another 3 hours at room temperature. After the addition of saturated aqueous sodium carbonate solution extraction is carried out with ethyl acetate; the combined organic phases produce the pure title compound after drying over sodium sulphate and complete evaporation of the solvent.

reactant | Benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | N-(4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine-2-yl)-guanidine | 0.1 mmol | N1=C(SC=2CNCCC21)NC(=N)N | C7H11N5S
reactant | diisopropylethylamine | 0.22 mmol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 0.7 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-guanidino-6,7-dihydro-4H-thiazolo[5,4-c]pyridine-5-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(CC1)N=C(S2)NC(=N)N | C15H17N5O2S
